US04279918
Condense 4-chlorobenzylcyanide with succinic acid diethyl ester in the presence of sodium ethanolate, boil the condensation product (without further purification) with a mixture of glacial acetic acid/semi-concentrated hydrochloric acid for 20 hours under reflux, convert (with hydroxylamine) the thus-obtained 5-(4-chlorophenyl)-4-oxo-pentanoic acid (m.p. 91° to 93°) into 5-(4-chlorophenyl)-4-hydroxyiminopentanoic acid (m.p. 116° to 117°), hydrogenate the latter with platinum/activated charcoal/hydrogen in acetic acid to 5-(4-chlorophenyl)-4-aminopentanoic acid and cyclize the thus-substituted pentanoic acid (through boiling in dioxane) to obtain 5-(4-chlorobenzyl)pyrrolidin-2-one (m.p. 95° to 98°).

reactant | 4-chlorobenzylcyanide | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | succinic acid diethyl ester | C(C)OC(CCC(=O)OCC)=O | C8H14O4
reactant | sodium ethanolate | C(C)[O-].[Na+]
product | 5-(4-chlorobenzyl)pyrrolidin-2-one | ClC1=CC=C(CC2CCC(N2)=O)C=C1 | C11H12ClNO
